US05559131
N-[4-[4-(N-Cyclohexylacetamido)piperidino]-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide.
N-[4-(4-cyclohexylaminopiperidino)-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide was dissolved in dichloromethane (4.0 mL), and triethylamine (1.0 mL) and acetic anhydride (0.65 mL) were added. After being stirred for 2 hours, the mixture was washed with aqueous sodium bicarbonate, dried, and evaporated. The resulting material was chromatographed, with dichloromethane:methanol (95:5) as the eluent, to give the title compound (0.60 g) as a white solid; MS: m/z=558(M+l). Analysis for C31H41Cl2N3O2.0.6 CH2Cl2 : Calculated: C, 62.26; H, 6.98; N, 6.89. Found: C, 62.15; H, 6.99; N, 7.30

reactant | N-[4-(4-cyclohexylaminopiperidino)-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide | C1(CCCCC1)NC1CCN(CC1)CCC(CN(C(C1=CC=CC=C1)=O)C)C1=CC(=C(C=C1)Cl)Cl | C29H39Cl2N3O
reactant | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.65 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
product | N-[4-[4-(N-Cyclohexylacetamido)piperidino]-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide | 0.60 g | C1(CCCCC1)N(C(C)=O)C1CCN(CC1)CCC(CN(C(C1=CC=CC=C1)=O)C)C1=CC(=C(C=C1)Cl)Cl | C31H41Cl2N3O2
